US04958019
(4) Synthesis of 2,5-bis(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine
In 300 ml of ethanol was dissolved 14 g of 7-chloro-2,5-bis(acetoxymethyl)-s-triazolo[1,5-a]pyrimidine, and 10.7 g of thiourea was added thereto and the mixture was refluxed for 10 minutes. After removing ethanol from the reaction mixture, the residue was dissolved in 230 ml of a 5 % potassium hydroxide. The mixture was stirred for 30 minutes, ice-cooled and adjusted to pH 2 with 2N hydrochloric acid. Precipitated crystal was collected by filtration, washed with water and dried to obtain 7.16 g of the title compound.

reactant | 7-chloro-2,5-bis(acetoxymethyl)-s-triazolo[1,5-a]pyrimidine | 14 g | ClC1=CC(=NC=2N1N=C(N2)COC(C)=O)COC(C)=O | C11H11ClN4O4
reactant | thiourea | 10.7 g | NC(=S)N | CH4N2S
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2,5-bis(hydroxymethyl)-7-mercapto-s-triazolo[1,5-a]pyrimidine | 7.16 g | OCC1=NN2C(N=C(C=C2S)CO)=N1 | C7H8N4O2S
